*****************************************************************
* NXP BUK7Y15-100E
*
* Polarity N-Channel
* Ratings 100V/1.500000E-002OHMS/68.4042840780362A
*
* Date Created Mon Feb 04 07:44:22 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y15-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00889254923419942 TC=0.0058006921831197,3.60943251079598E-05
RBD 9 4 0.000767060211133526 TC=0.0058006921831197,3.60943251079598E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.63368204128494e-09
RG 1 2 2.27663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1587.93125
+ -16	1586.83125
+ -10	1583.51125
+ -5	1568.10125
+ -4	1517.86125
+ -3	2485.26125
+ -2	2091.33125
+ -1	1671.17125
+ -0.5	1381.07125
+ -0.2	1178.02125
+ -0.1	1119.65125
+ 0	1065.453885
+ 0.1	990.11852
+ 0.2	925.41652
+ 0.5	784.61252
+ 1	660.55752
+ 2	497.06852
+ 3	417.88652
+ 4	373.47052
+ 5	340.06652
+ 6	314.39452
+ 8	278.37752
+ 10	252.72352
+ 12	233.22352
+ 15	211.88852
+ 20	186.81552
+ 30	156.12252
+ 50	123.96052
+ 70	91.79852
+ 90	59.63652



.MODEL MINT NMOS(Vto=3.74419366209629 Kp=130 Nfs=780000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=1.01878070206762e-12
+ N=1 M=0.62 VJ=0.66 Fc=0.5 Cjo=1.03697067e-09 Tt=3.2352e-08)

.ENDS

